US05932571
Combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.54 g, 1.71 mmol) and sodium hydride (0.87 g, 3.48 mmol) in dimethylformamide (10 mL). After 30 minutes, add 2-(isopropoxy)ethyl mesylate (0.51 g, 5.5 mmol). Heat to 80° C. After 2 hours, cool the reaction mixture to ambient temperature and partition between dichloromethane and a saturated aqueous sodium bicarbonate solution. Separate the layers and extract the organic layer with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-(t-butoxycarbonyl)-4-(1-(2-(isopropoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane.

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 1.71 mmol, 0.54 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 3.48 mmol, 0.87 g | [H-].[Na+]
reactant | 2-(isopropoxy)ethyl mesylate | 5.5 mmol, 0.51 g | S(C)(=O)(=O)OCCOC(C)C | C6H14O4S
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(t-butoxycarbonyl)-4-(1-(2-(isopropoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOC(C)C)C=CC=C2 | C22H34N4O3
